US05747516
Step B Preparation of 2-Methyl-4-(2-phenoxyphenyl)-5-thioxo-1,2,4-triazolidin-3-one
A solution of 1.54 g of 1-methyl-N-(2-phenoxyphenyl)hydrazinecarboxamide in 50 mL of tetrahydrofuran, cooled in an ice bath, was treated with 0.46 mL of thiophosgene, and then 1.68 mL of triethylamine. A precipitate formed and the mixture was stirred at ambient temperature overnight. The precipitate was removed by filtration and washed with tetrahydrofuran. The combined filtrate and washings were concentrated under reduced pressure to afford 1.8 g of an amber glassy oil. The crude material was used in the next step without further purification. 1H NMR (CDCl3): δ6.8-7.4 (m, 9H), 3.57 (s,3H).

reactant | 1-methyl-N-(2-phenoxyphenyl)hydrazinecarboxamide | 1.54 g | CN(N)C(=O)NC1=C(C=CC=C1)OC1=CC=CC=C1 | C14H15N3O2
reactant | thiophosgene | 0.46 mL | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 1.68 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-Methyl-4-(2-phenoxyphenyl)-5-thioxo-1,2,4-triazolidin-3-one | 1.8 g | CN1NC(N(C1=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=S | C15H13N3O2S
